US04232032
A mixture of 2,4-bis(trichloromethyl)benzo[1,3]dioxin-6-carboxamide (3.14 g.) and potassium t-butoxide (2.5 g.) in 50% aqueous dimethylsulphoxide (50 ml.) was heated at 80°-90° C. for 2 hours. The solid product was filtered off, dried and crystallised from ethanol to give 2,4-bis(dichloromethylene)benzo[1,3]dioxin-6-carboxamide, m.p. 217°-218° C.

reactant | 2,4-bis(trichloromethyl)benzo[1,3]dioxin-6-carboxamide | 3.14 g | ClC(C1OC2=C(C(O1)C(Cl)(Cl)Cl)C=C(C=C2)C(=O)N)(Cl)Cl | C11H7Cl6NO3
reactant | potassium t-butoxide | 2.5 g | CC(C)([O-])C.[K+]
solvent | dimethylsulphoxide | 50 ml | CS(=O)C | C2H6OS
product | 2,4-bis(dichloromethylene)benzo[1,3]dioxin-6-carboxamide | ClC(=C1OC2=C(C(O1)=C(Cl)Cl)C=C(C=C2)C(=O)N)Cl | C11H5Cl4NO3
